US05703096
2(a) 5-{4-[2-(2-Quinolylmethyleneaminooxy) ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 478 mg of 2-(2-quinolylmethyleneaminooxy)ethanol (prepared as described in Preparation 2), 1.00 g of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 638 mg of triphenylphosphine and 423 mg of diethyl azodicarboxylate, 1.12 g of the title compound were obtained as a crystalline powder, melting at 127°-130° C.

reactant | 2-(2-quinolylmethyleneaminooxy)ethanol | 478 mg | N1=C(C=CC2=CC=CC=C12)C=NOCCO | C12H12N2O2
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 1.00 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 638 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 423 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-{4-[2-(2-Quinolylmethyleneaminooxy) ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione | 1.12 g | N1=C(C=CC2=CC=CC=C12)C=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C41H33N3O4S
